US08110681B2
A mixture of tert-butyl 2-(4-(6-bromo-1-oxoisoindolin-2-yl)phenyl)propanoate (0.200 g, 0.48 mmol), cis-1-propene-1-boronic acid (0.413 g, 4.8 mmol), tetrakis(triphenylphosphine)palladium(0) (0.554 g, 0.48 mmol), and cesium carbonate (0.470 g, 1.44 mmol) in 5:2 DME/water (7 mL) was heated in a microwave reactor for 20 min at 120° C. The mixture was cooled to room temperature, then diluted with ethyl acetate (8 mL). The reaction mixture was concentrated and purified by flash chromatography (silica, gradient 1-20%, ethyl acetate/hexanes) afforded tert-butyl 2-(4-(1-oxo-6-(prop-1-enyl)isoindolin-2-yl)phenyl)propanoate (0.144 g, 77%) as a yellow solid: mp 125-130° C.; 1H NMR (500 MHz, CDCl3) δ 7.96-7.80 (m, 2H), 7.75-7.65 (m, 1H), 7.54-7.34 (m, 4H), 6.53-6.33 (m, 1H), 5.93-5.87 (m, 1H), 4.84-4.80 (m, 2H), 3.66-3.60 (m, 1H), 1.94-1.91 (m, 3H), 1.47-1.45 (m, 3H), 1.41 (s, 9H) [6:4 mixture of olefin isomers determined by NMR]; ESI MS m/z 378 [M+H]+.

reactant | tert-butyl 2-(4-(6-bromo-1-oxoisoindolin-2-yl)phenyl)propanoate | 0.48 mmol, 0.200 g | BrC1=CC=C2CN(C(C2=C1)=O)C1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C | C21H22BrNO3
reactant | cis-1-propene-1-boronic acid | 4.8 mmol, 0.413 g | C(=C/C)/B(O)O | C3H7BO2
reactant | cesium carbonate | 1.44 mmol, 0.470 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DME water | 7 mL | COCCOC.O
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.48 mmol, 0.554 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 2-(4-(1-oxo-6-(prop-1-enyl)isoindolin-2-yl)phenyl)propanoate | 0.144 g, 77% | O=C1N(CC2=CC=C(C=C12)C=CC)C1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C | C24H27NO3
